US07557213B2
Preparation of 6-[3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carbonitrile
The mixture of 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one (70 mg, 0.228 mmol, 1 eq) in DMF (1 ml) and sodium hydride (11.8 mg, 0.296 mmol, 1.3 eq) was stirred at room temperature for 60 min, followed by the addition of 6-Bromomethyl-pyridine-2-carbonitrile (74.1 mg, 0.296 mmol, 1.3 eq). The mixture was stirred for 60 min, quenched with water, taken up with ethyl acetate, dried over sodium sulfate and purified with flash chromatography to give the desired product (17 mg). LCMS observed for (M+H)+: 424.1.

reactant | 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one | 0.228 mmol, 70 mg, 1 eq | O1CCOC2=C1C=CC(=C2)C(=O)C2=CNC1=CC=CC=C1C2=O | C18H13NO4
reactant | sodium hydride | 0.296 mmol, 11.8 mg, 1.3 eq | [H-].[Na+]
reactant | 6-Bromomethyl-pyridine-2-carbonitrile | 0.296 mmol, 74.1 mg, 1.3 eq | BrCC1=CC=CC(=N1)C#N | C7H5BrN2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-[3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carbonitrile | 17 mg | O1CCOC2=C1C=CC(=C2)C(=O)C2=CN(C1=CC=CC=C1C2=O)CC2=CC=CC(=N2)C#N | C25H17N3O4
